US05202055
(i) Preparation of trans-4-phenylcyclohexanol
Tetrahydrofuran (200 ml) was dropwise added into a 1 l capacity three-necked flask containing lithiumaluminum hydride (9.9 g, 0.26 mol), at 0° C., followed by sufficiently suspending these materials, dropwise adding a solution of phenylcyclohexanone (91.3 g, 0.52 mol) in tetrahydrofuran (200 ml), agitating the mixture at room temperature for 2 hours, again cooling it down to 0° C., dropwise adding ethyl acetate (20 ml), further adding dilute hydrochloric acid (100 ml), removing insolubles in the resulting reaction solution by suction-filtration, adding ethyl acetate (100 ml) to the filtrate for extraction, three times washing the resulting organic layer with water (100 ml), drying it over magnesium sulfate, filtering off magnesium sulfate, concentrating the residue under reduced pressure to obtain white crystals (98.5 g), recrystallizing from alcohol and drying to obtain 4-trans-phenylcyclohexanol (55 g). M.P.: 117°-119° C.

reactant | lithiumaluminum hydride | 0.26 mol, 9.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | phenylcyclohexanone | 0.52 mol, 91.3 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | trans-4-phenylcyclohexanol | 98.5 g | C1(=CC=CC=C1)[C@@H]1CC[C@H](CC1)O | C12H16O
